OP_AOL_DC.CIR
*----------------------------------------------------------------------------
*NOTES
*----------------------------------------------------------------------------
*-NON-INVERTING AMPLIFIER
* Revisiting the circuit, for the op amp itself you can write the open-loop
* gain equation as vo = (v+ - v-)·A and for the resistors you can write the
* feedback factor as B = v-/vo = R1/(R1+R2). Now combine these along with
* v+=vin to get the closed-loop gain.
*									Kcl = vo / vin = A / (1+AB)
* The power of feedback control systems occur when A*B >> 1, making the
* ideal closed loop gain
*						Kcl' = 1 / B = (R1+R2) / R1

*-Gain Error
* 						Kcl = 1/B · AB / (1+AB)
*						Kcl' = 1/B   times an error term   Err = AB / (1+AB)
*						Kcl_err = [ 1 - AB/(1+AB) ] / 1
*						Kcl_err = 1/(A·B)
*--GAIN ERROR IN PERCENT
*						Kcl_err = 1/(A B) · 100%
*--OUTPUT VOLTAGE ERROR
*						vo_err = vin · Kcl' · 1/(A B)
* The higher the Egain, the lower the output error.

*-INVERTING AMPLIFIER
*						Kcl    = vo / vin = -R2/R1· AB /(1+AB)
*						vo_err = vin · Kcl' · Kcl_err
*					           = vin · -R2/R1 · 1/(AB)

* Summary de gain in open loop afect de output of the voltage and the amount
* of Serror.
*----------------------------------------------------------------------------
*PARAMETERS
*----------------------------------------------------------------------------
.PARAM p_R1		1k
.PARAM p_R2		9k

.PARAM p_R11	1k
.PARAM p_R12	10k


*----------------------------------------------------------------------------
*CIRCUIT
*----------------------------------------------------------------------------
* INPUT
VS		1	0	ac	1	PWL(0US 0V   0.01US 1V)
*
* NON-INVERTING AMP
R1		2	0	{p_R1}
R2		3	2	{p_R2}
XOP1	1 	2	3   op_001
*
* IDEAL NON-INVERTING GAIN
EAMP1	5 	0 	1 	0		10

*
* INVERTING AMP
R11		1	12	{p_R11}
R12		12	13	{p_R2}

XOP2	0 	12  13    op_001
*
* IDEAL INVERTING GAIN
EAMP2	15 0 1 0		-10

*----------------------------------------------------------------------------
*MEASURMENTS
*----------------------------------------------------------------------------
.MEAS TRAN Vout_Op1_max			max(V(3))
.MEAS TRAN Vout_OpIdeal_max		max(V(5))
.MEAS TRAN OUT_ERROR	PARAM	{(Vout_OpIdeal_max-Vout_Op1_max)*100}

.MEAS TRAN Vout_Op2_max			max(V(13))
.MEAS TRAN Vout_OpIdeal2_max		max(V(12))
.MEAS TRAN OUT_ERROR2	PARAM	{(Vout_OpIdeal_max-Vout_Op1_max)*100}

*----------------------------------------------------------------------------
*SUBCIRCUIT
*----------------------------------------------------------------------------
* BASIC OP AMP MODEL
*                 In+ In- Vout
.SUBCKT op_001    1   2   3
RIN   1   2   1e12
* OPEN LOOP GAIN
EGAIN   3 0 1 2	2000000
*
.ENDS
*
* ANALYSIS *************************************
.TRAN 	1us  100us
.PROBE
.END
