*LIBRARY OF LOW PASS FILTER
;.SUBCKT 101 IN OUT
.SUBCKT HPF IN OUT
.PARAM C 	5n
.PARAM fc 	5k
.PARAM R 	{1/(2*pi*fc*C)}

C1	IN	OUT	{C}
R1	OUT	0	{R}
.END
