*LIBRARY OF LOW PASS FILTER
;.SUBCKT 100 IN OUT
.SUBCKT LPF IN OUT
.PARAM C 	10n
.PARAM fc 	5k
.PARAM R 	{1/(2*pi*fc*C)}

R1	IN	OUT	{R}
C1	OUT	0	{C}
.END
